US06638927B2
Preparation of 2-(4-bromo-2-fluorophenyl)ethylamine
4-Bromo-2-fluoronitro styrene (1 equivalent) in THF (0.2 M) was cooled to 0° C. and treated with 1.0 M BH3 in THF (5 equivalents). The reaction was heated to reflux overnight. The reaction was cooled to 0° C. and quenched with H2O then 1 N HCl until a pH of about 2 was achieved. The reaction was stirred for 30 minutes at room temperature and then extracted with ether (3×). The aqueous layer was made basic with 5% NaOH solution. The aqueous layer was then extracted into ether (3×). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated to give crude 2-(4-bromo-2-fluorophenyl)ethylamine. Purification by flash chromatography eluting with 2%-5%-10% MeOH/CH2Cl2 gradients containing 1% concentrated ammonia afforded the desired compound. MS m/z 219.8 (M+H).

reactant | 4-Bromo-2-fluoronitro styrene | 1 equivalent | BrC1=CC(=C(C=C[N+](=O)[O-])C=C1)F | C8H5BrFNO2
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
solvent | THF | 5 equivalents | C1CCOC1 | C4H8O
product | 2-(4-bromo-2-fluorophenyl)ethylamine | BrC1=CC(=C(C=C1)CCN)F | C8H9BrFN
